US08114868B2
A solution of 3-dimethylamino-1-(3-fluoro-phenyl)-propan-1-one (17 g, 0.087 mol) and (S)-1-(4-bromophenyl)-ethanamine (17 g, 0.087 mol) in a mixture of EtOH (50 mL) and H2O (50 mL) was refluxed at 80° C. overnight. The solvent was removed under vacuum, and the residue was purified by column chromatography to afford (S)-3-(1-(4-bromophenyl)-ethylamino)-1-(3-fluorophenyl)-propan-1-one (6.2 g, 20%).

reactant | 3-dimethylamino-1-(3-fluoro-phenyl)-propan-1-one | 0.087 mol, 17 g | CN(CCC(=O)C1=CC(=CC=C1)F)C | C11H14FNO
reactant | (S)-1-(4-bromophenyl)-ethanamine | 0.087 mol, 17 g | BrC1=CC=C(C=C1)[C@H](C)N | C8H10BrN
solvent | EtOH | 50 mL | CCO | C2H6O
solvent | H2O | 50 mL | O | H2O
product | (S)-3-(1-(4-bromophenyl)-ethylamino)-1-(3-fluorophenyl)-propan-1-one | 6.2 g, 20% | BrC1=CC=C(C=C1)[C@H](C)NCCC(=O)C1=CC(=CC=C1)F | C17H17BrFNO
